US07378415B2
7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid (2-amino-ethyl)-amide
2-[(7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-amino]-ethyl}-carbamic acid tert-butyl ester (38 mg) was dissolved in 1 mL ethanol and combined with 1 mL of 2N ethanolic HCl and refluxed for 30 minutes. Upon cooling, a white crystalline solid precipitated and filtration gave 25 mg. of 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid (2-amino-ethyl)-amide hydrochloride. MS: 362 (M+H)+, mp: 220.9-221.3° C.

reactant | carbamic acid tert-butyl ester | 38 mg | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | HCl | 2N, 1 mL | Cl | ClH
reactant | 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid (2-amino-ethyl)-amide hydrochloride | Cl.NCCNC(=O)N1CCOC2=C1C=CC(=C2)S(=O)(=O)C2=CC=CC=C2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)N1CCOC2=C1C=CC(=C2)S(=O)(=O)C2=CC=CC=C2 | C17H19N3O4S
